US04558142
571.5 mg (1.82 mmol) of [3S-[3S-[3α,3aα,4α(1E,3R*),5β,6aα]]-hexahydro-3-fluoro-5-hydroxy-4-(3-hydroxy-4,4-dimethyl-1-octenyl)-2H-cyclopenta[b]furan-2-one was dissolved in 20 ml of methylene chloride (freshly filtered through aluminum oxide, activity I) under a positive argon pressure. 2.0 ml (21.9 mmol) of dihydropyran (freshly dist. from sodium) was added under stirring followed by a crystal of p-toluenesulfonic acid monohydrate (9.7 mg; 0.05 mmol). The mixture was stirred at room temperature for 30 min, poured into 50 ml of sat. aqueous sodium bicarbonate and extracted three times with 30 ml of methylene chloride. The extracts were washed twice with 50 ml of brine, combined, dried over MgSO4 and concentrated at reduced pressure. The crude product (1.14 g, oil) was chromatographed on a 100 g silica gel column with ether/petroleum ether (1:1) yielding 797 mg (1.65 mmol)91% of [3S-[3α,3aα,4α(1E,3R*),-5β,6aα]]-hexahydro-3-fluoro-5-[(tetrahydro-2H-pyran-2-yl)oxy]-4-[3-(tetrahydro-2H-pyran-2-yl)oxy]-4,4-dimethyl-1-octenyl]-2H-cyclopenta[b]furan-2-one as a clear oil(mixture of THP-diastereomers). [α]D25 -32.46° in CHCl3, c=0.8780.

reactant | dihydropyran | 21.9 mmol, 2.0 ml | O1CCCC=C1 | C5H8O
reactant | sodium | [Na] | Na
reactant | p-toluenesulfonic acid monohydrate | 0.05 mmol, 9.7 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2H-cyclopenta[b]furan-2-one | O1C=2C(=CC1=O)C=CC2 | C7H4O2
